US07829585B2
2-(4-Fluoro-benzyl)-benzofuran-5-carbaldehyde
Into a methylene chloride (4 mL) solution of 5-[1,3]dioxolan-2-yl-2-(4-fluoro-benzyl)-benzofuran (100 mg, 0.335 mmol) and carbon tetrabromide (222 mg, 0.67 mmol) was dropped a methylene chloride (1 mL) solution of triphenylphosphine (176 mg, 0.67 mmol), while cooling with ice.

reactant | 5-[1,3]dioxolan-2-yl-2-(4-fluoro-benzyl)-benzofuran | 0.335 mmol, 100 mg | O1C(OCC1)C=1C=CC2=C(C=C(O2)CC2=CC=C(C=C2)F)C1 | C18H15FO3
reactant | carbon tetrabromide | 0.67 mmol, 222 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.67 mmol, 176 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Fluoro-benzyl)-benzofuran-5-carbaldehyde | FC1=CC=C(CC=2OC3=C(C2)C=C(C=C3)C=O)C=C1 | C16H11FO2
